US06242470B1
N-(5-Indolyl)-tricyclo[3.3.1.13,7]decane-1-acetamide
Prepared according to the method of Example 1b) from 1-adamantaneacetyl chloride (0.076 g) and 5-aminoindole (0.05 g) to give the title compound as a white solid (0.05 g).

reactant | 1-adamantaneacetyl chloride | 0.076 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
reactant | 5-aminoindole | 0.05 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
product | N-(5-Indolyl)-tricyclo[3.3.1.13,7]decane-1-acetamide | 0.05 g | N1C=CC2=CC(=CC=C12)NC(CC12CC3CC(CC(C1)C3)C2)=O | C20H24N2O
